US08232403B2
To a mixture of 2-[N-(cyclopentylmethyl)-N-ethylamino]-6-methyl-5-nitronicotinonitrile (1.22 g, 4.23 mmol) in DMF (10 mL) is added N,N-dimethylformamide diethyl acetal (1.09 mL, 6.35 mmol). After stirring at 85° C. for 30 min, the reaction mixture is cooled to room temperature and then H2O is added. The mixture is extracted with EtOAc, dried over sodium sulfate and concentrated in vacuo. The resulting solid is rinsed with MeOH to give an orange solid. The solid is dissolved in MeOH (200 mL) and EtOAc (200 mL) and treated with Palladium-activated carbon ethylenediamine complex (Pd/C(en), 470 mg). The mixture is stirred under H2 atmosphere for 2.5 hours at room temperature. The reaction mixture is filtered, and the filtrate is concentrated in vacuo. The residue is dissolved in EtOAc/Hexane and passed through a silica-gel pad. The resulting mixture is concentrated in vacuo, and the residue is dissolved in DMF (10 mL). To this mixture, NaH (0.54 g, 13.5 mmol) is added at 0° C., and after 30 min, iodomethane (0.28 mL, 4.50 mmol) is added. After stirring for 1 hour, the reaction is quenched with H2O. The mixture is extracted with EtOAc and washed with brine. The organic layer is dried over sodium sulfate and concentrated in vacuo. The residue is purified by silica-gel column chromatography to give 5-[N-(cyclopentylmethyl)-N-ethylamino]-1-methyl-1H-pyrrolo[3,2-b]pyridine-6-carbonitrile as a colorless oil.

reactant | 2-[N-(cyclopentylmethyl)-N-ethylamino]-6-methyl-5-nitronicotinonitrile | 4.23 mmol, 1.22 g | C1(CCCC1)CN(CC)C1=C(C#N)C=C(C(=N1)C)[N+](=O)[O-] | C15H20N4O2
reactant | N,N-dimethylformamide diethyl acetal | 6.35 mmol, 1.09 mL | C(C)OC(N(C)C)OCC | C7H17NO2
reactant | NaH | 13.5 mmol, 0.54 g | [H-].[Na+]
reactant | iodomethane | 4.50 mmol, 0.28 mL | IC | CH3I
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | MeOH | 200 mL | CO | CH4O
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
product | 5-[N-(cyclopentylmethyl)-N-ethylamino]-1-methyl-1H-pyrrolo[3,2-b]pyridine-6-carbonitrile | C1(CCCC1)CN(CC)C1=C(C=C2C(=N1)C=CN2C)C#N | C17H22N4
